US06121307
2-(5-Fluoro-1H-indol-3-yl)ethanol
To a solution of 5-fluoro-indol-3-acetic acid (4.3 g, 0.022 mol) in anhydrous THF (35 ml) was added LiAlH4 (1.0 M, 33 ml, 0.033 mol) at 0° C. The mixture was allowed to stir for 0.5 hours and, then quenched by saturated NH4Cl solution. The mixture was then filtered through celite. The filtrate was washed with 1N NaOH (3×100 ml) and extracted with ethyl acetate (3×100 ml). The organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 4.04 g (100%) of product as an off-white solid: mp 59-61° C.

reactant | 5-fluoro-indol-3-acetic acid | 0.022 mol, 4.3 g | FC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8FNO2
reactant | LiAlH4 | 0.033 mol, 1.0 M, 33 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-(5-Fluoro-1H-indol-3-yl)ethanol | 4.04 g, 100% | FC=1C=C2C(=CNC2=CC1)CCO | C10H10FNO
